US07153854B2
A mixture of 2-benzoylcyclohexanone (1.00 g), sodium ethoxide (404 mg) in ethanol (5 mL) was stirred for 3.5 hours at room temperature. The reaction was quenched by adding 1N hydrochloric acid (1 mL). The solvent was evaporated off, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated to give ethyl 7-oxo-7-phenylheptanoate as a brown oil (1.33 g).

reactant | 2-benzoylcyclohexanone | 1.00 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | sodium ethoxide | 404 mg | [O-]CC.[Na+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
product | ethyl 7-oxo-7-phenylheptanoate | 1.33 g | O=C(CCCCCC(=O)OCC)C1=CC=CC=C1 | C15H20O3
